US04966905
2,2-Dimethyl-5-[2-(1-methyl-2-pyrrolyl)ethenyl]-3(2H)-furanone
To a solution of 1-methyl-2-pyrrolecarboxaldehyde (1.4 g, 12.7 mM) and 2,2,5-trimethyl-3(2H)-furanone (2.0 g, 15.9 mM) in ethanol (100 mL), was added 1N aqueous sodium hydroxide (1.6 mL, 1.6 mM). The reaction solution was heated at 70° C. for 48 hours. After the reaction solution was cooled to 0° C., saturated aqueous sodium chloride (400 mL) was added. The aqueous layer was extracted with ethyl acetate (3×100 mL). The combined ethyl acetate extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a brown solid. The crude product was purified by chromatography (silica gel, pet. ether-ethyl acetate) to give orange crystals (1.8 g, 65% yield), m.p. 98.5°-100° C.

reactant | 1-methyl-2-pyrrolecarboxaldehyde | 12.7 mM, 1.4 g | CN1C(=CC=C1)C=O | C6H7NO
reactant | 2,2,5-trimethyl-3(2H)-furanone | 15.9 mM, 2.0 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | sodium hydroxide | 1N, 1.6 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2,2-Dimethyl-5-[2-(1-methyl-2-pyrrolyl)ethenyl]-3(2H)-furanone | 1.8 g, 65% yield | CC1(OC(=CC1=O)C=CC=1N(C=CC1)C)C | C13H15NO2
